US04822787
A mixture of (2S,4R)-1-benzyloxycarbonyl-4-methanesulfonyloxy-2-[(2-ureidoethyl)oxymethyl]pyrrolidine (13.25 g), concentrated hydrochloric acid (3 ml), methanol (150 ml) and 10% palladium on carbon (0.5 g) was stirred under atmospheric pressure of hydrogen at ambient temperature for 4 hours. The catalyst was filtered off and the filtrate was concentrated under reduced pressure to give (2S,4R)-4-methanesulfonyloxy-2-[(2-ureidoethyl)oxymethyl]pyrrolidine. To a solution of the compound obtained above in a mixture of tetrahydrofuran (100 ml) and water (100 ml) was dropwise added a solution of allyl chloroformate (3.75 ml) in tetrahydrofuran (30 ml) under ice-cooling with stirring, keeping the pH between 8.5-9.5 with 4N aqueous sodium hydroxide. The mixture was stirred at the same condition for 1 hour and extracted with ethyl acetate (100 ml×2). The organic layer was dried over magnesium sulfate and evaporated under reduced pressure to give a syrup. The syrup was subjected to a column chromatography on silica gel (150 g) and eluted with a mixture of methanol and chloroform (2:98 and then 4:96 V/V) to give (2S,4R)-1-allyloxycarbonyl-4-methanesulfonyloxy-2-[(2-ureidoethyl)oxymethyl]pyrrolidine (11.02 g).

reactant | (2S,4R)-1-benzyloxycarbonyl-4-methanesulfonyloxy-2-[(2-ureidoethyl)oxymethyl]pyrrolidine | 13.25 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)COCCNC(=O)N | C17H25N3O7S
reactant | hydrochloric acid | 3 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
solvent | methanol | 150 ml | CO | CH4O
product | (2S,4R)-4-methanesulfonyloxy-2-[(2-ureidoethyl)oxymethyl]pyrrolidine | CS(=O)(=O)O[C@@H]1C[C@H](NC1)COCCNC(=O)N | C9H19N3O5S
